US04424351
3.7 g (0.02 moles) of 3-methyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride are reacted with an excess of caprinic acid chloride as described in Example 2, to obtain 1-caprinoyl-3-methyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride with a yield of 62.7%; m.p.: 237°-238° C.

reactant | 3-methyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride | 0.02 moles, 3.7 g | Cl.CC1=NNC2=C(N1)C=NC=C2
reactant | caprinic acid chloride | C(CCCCCCCCC)(=O)Cl | C10H19ClO
product | 1-caprinoyl-3-methyl-1,4-dihydropyrido[3,4-e]-as-triazine hydrochloride | yield of 62.7% | Cl.C(CCCCCCCCC)(=O)N1N=C(NC2=C1C=CN=C2)C | InChI=1S/C17H26N4O.ClH/c1-3-4-5-6-7-8-9-10-17(22)21-16-11-12-18-13-15(16)19-14(2)20-21;/h11-13H,3-10H2,1-2H3,(H,19,20);1H
